US07338960B2
1-(6-Bromo-2-pyridinyl)-3-(methyloxy)-1-propanone
To a solution of n-Butyllithium (1.6M in hexanes, 4.06 mL, 6.50 mmol) in anhydrous THF (4.0 mL) under nitrogen at −78° C. was added a solution of 2,6-dibromopyridine (1.54 g, 6.50 mmol) in anhydrous THF (9.5 mL) drop-wise over 45 min. The resulting dark green solution was stirred at −78° C. for 15 min and then treated with N-ethyl-3-(methyloxy)-N-(phenylmethyl)propanamide (2.16 g, 9.76 mmol), washing in with anhydrous THF (3.0 mL). The resulting green solution was stirred at −78° C. for 15 min and was then treated with a solution of AcOH (0.40 mL) in MeOH (6.60 mL) to give a pale brown solution. This mixture was removed from the cooling bath and allowed to warm to room temperature, then stirred for 2 h. The mixture was then treated with saturated aqueous. NH4Cl (40 mL) and the products extracted with EtOAc (2×50 mL). The combined organic layer was then washed with brine (60 mL), dried (MgSO4) and the reduced in vacuo to give an orange oil. Purification by Biotage (silica, 90 g cartridge) eluting with cyclohexane:EtOAc (10:1) afforded the title compound as a white solid (547 mg).

reactant | n-Butyllithium | 6.50 mmol, 1.6M, 4.06 mL | C(CCC)[Li]
reactant | 2,6-dibromopyridine | 6.50 mmol, 1.54 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | N-ethyl-3-(methyloxy)-N-(phenylmethyl)propanamide | 9.76 mmol, 2.16 g | C(C)N(C(CCOC)=O)CC1=CC=CC=C1 | C13H19NO2
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
solvent | THF | 9.5 mL | C1CCOC1 | C4H8O
product | 1-(6-Bromo-2-pyridinyl)-3-(methyloxy)-1-propanone | 547 mg | BrC1=CC=CC(=N1)C(CCOC)=O | C9H10BrNO2
